US07585881B2
3-(3-Chloro-phenyl)-5-{2-[3-cyclopropyl-2-(4-methoxy-phenyl)-3H-imidazol-4-yl]-ethyl}-[1,2,4]oxadiazole
3-chloro-N′-hydroxybenzenecarboximidamide (54.3 mg, 0.32 mmol), 3-[3-cyclopropyl-2-(4-methoxy-phenyl)-3H-imidazol-4-yl]-propionic acidethyl ester (100 mg, 0.32 mmol) and sodium-tert-butoxide (30.6 mg, 0.32 mmol) were mixed with EtOH (1 ml) and toluene (1 ml), followed by stirring at 100° C. for 24 h. The mixture was then concentrated, in-vacuo, and the residue was purified via column chromatography using 50% EA in hex. and then triturated with Et2O to isolate the title compound (27 mg). 1H-NMR: 8.1 (m, 1H), 7.97 (dd, 1H), 7.64 (d, 2H), 7.47 (m, 2H), 6.96 (d, 2H), 6.88 (s, 1H), 3.87 (s, 3H), 3.37 (m, 4H), 3.24 (m, 1H), 1.06 (m 2H), 0.68 (m, 2H).

reactant | 3-chloro-N′-hydroxybenzenecarboximidamide | 0.32 mmol, 54.3 mg | ClC=1C=C(C=CC1)C(N)=NO | C7H7ClN2O
reactant | 3-[3-cyclopropyl-2-(4-methoxy-phenyl)-3H-imidazol-4-yl]-propionic acidethyl ester | 0.32 mmol, 100 mg | C(C)OC(CCC=1N(C(=NC1)C1=CC=C(C=C1)OC)C1CC1)=O | C18H22N2O3
reactant | sodium-tert-butoxide | 0.32 mmol, 30.6 mg | CC(C)([O-])C.[Na+]
reactant | EtOH | 1 ml | CCO | C2H6O
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(3-Chloro-phenyl)-5-{2-[3-cyclopropyl-2-(4-methoxy-phenyl)-3H-imidazol-4-yl]-ethyl}-[1,2,4]oxadiazole | 27 mg | ClC=1C=C(C=CC1)C1=NOC(=N1)CCC=1N(C(=NC1)C1=CC=C(C=C1)OC)C1CC1 | C23H21ClN4O2
